US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic Acid 5-Methyl-2-oxo-[1,3]dioxol-4-ylmethyl Ester
HATU (37.9 mg, 99.6 μmol) was added to a solution of 1-hydroxy-1H-1,2,3-benzotriazole-6-carboxylic acid (14.9 mg, 83 μmol) in DMF (0.5 mL, 6.4 mmol) and the resulting mixture was stirred at room temperature for 5 minutes. (2R,4R)-4-Amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid 5-methyl-2-oxo[1,3]dioxol-4-ylmethyl ester (28.7 mg, 66.4 μmol) was added to the mixture, followed by DIPEA (35 μL, 0.2 mmol) dropwise over 5 minutes, and the mixture was stirred at room temperature for 30 minutes. The mixture was concentrated in vacuo to yield a yellow liquid, which was purified by preparative HPLC to yield the title compound as a white solid (37.8 mg, purity 98.5%). MS m/z [M+H]+ calc'd for C29H25ClN4O8, 593.14. found 593.0.

reactant | HATU | 99.6 μmol, 37.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-hydroxy-1H-1,2,3-benzotriazole-6-carboxylic acid | 83 μmol, 14.9 mg | ON1N=NC2=C1C=C(C=C2)C(=O)O | C7H5N3O3
reactant | DMF | 6.4 mmol, 0.5 mL | CN(C)C=O | C3H7NO
reactant | (2R,4R)-4-Amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid 5-methyl-2-oxo[1,3]dioxol-4-ylmethyl ester | 66.4 μmol, 28.7 mg | CC1=C(OC(O1)=O)COC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C22H22ClNO6
reactant | DIPEA | 0.2 mmol, 35 μL | CCN(C(C)C)C(C)C | C8H19N
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic Acid 5-Methyl-2-oxo-[1,3]dioxol-4-ylmethyl Ester | 37.8 mg | CC1=C(OC(O1)=O)COC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=CC2=C(N=NN2O)C=C1)O)=O | C29H25ClN4O8
